US07572820B2
C. 4-Chloro-3-(3-{[5-cyano-2-propyl-4-(trifluoromethyl)-1H-indol-1-yl]methyl}-1,2,4-oxadiazol-5-yl)benzamide
A round bottom flask was mixed with 4-chloro-3-(3-{[5-cyano-2-propyl-4-(trifluoromethyl)-1H-indol-1-yl]methyl}-1,2,4-oxadiazol-5-yl)benzoyl chloride (0.037 g, 0.07 mmol) and 2.0 M NH3 in MeOH (5.0 mL). The mixture was stirred at rt for 2 h and concentrated to dryness. The resulting solid was crystallized with Et2O, filtered in vacuo and dried under high vacuum to afford a pure solid (0.021 g, 58% yield): MS (ES) m/z 487 (M+).

reactant | 4-chloro-3-(3-{[5-cyano-2-propyl-4-(trifluoromethyl)-1H-indol-1-yl]methyl}-1,2,4-oxadiazol-5-yl)benzoyl chloride | 0.07 mmol, 0.037 g | ClC1=C(C=C(C(=O)Cl)C=C1)C1=NC(=NO1)CN1C(=CC2=C(C(=CC=C12)C#N)C(F)(F)F)CCC | C23H15Cl2F3N4O2
reactant | NH3 | 2.0 M | N | H3N
solvent | MeOH | 5.0 mL | CO | CH4O
product | 4-Chloro-3-(3-{[5-cyano-2-propyl-4-(trifluoromethyl)-1H-indol-1-yl]methyl}-1,2,4-oxadiazol-5-yl)benzamide | 0.021 g, 58% yield | ClC1=C(C=C(C(=O)N)C=C1)C1=NC(=NO1)CN1C(=CC2=C(C(=CC=C12)C#N)C(F)(F)F)CCC | C23H17ClF3N5O2
